US06514911B1
Preparation of 2-Pentafluoroethyl-4,4-bis(trifluoromethyl)-6-(3-trifluoromethyl-phenyl)-4H-1,3,5-oxadiazine
3-Trifluoromethylbenzonitrile (1.69 g, 0.01 mole) and 2,2,3,3,3-pentafluoro-N-{2,2,2-trifluoro-1-(trifluoromethyl)ethylidene}propanamide (4.67 g, 0.015 mole) were dissolved in diethyl ether, sealed in an ampoule and kept at 60° C. for six hours. The solvent was evaporated and the residue distilled at reduced pressure to give a colorless oil, 4.4 g. (90 percent). PMR (CDCl3), 7.70 t (1H), 7.95 d (1H), 8.30 s&d (2H); 19F NMR, −45.68 (2F), −5.49 (3F), −10 (6F), 14.11 (3F).

reactant | 3-Trifluoromethylbenzonitrile | 0.01 mole, 1.69 g | FC(C=1C=C(C#N)C=CC1)(F)F | C8H4F3N
reactant | 2,2,3,3,3-pentafluoro-N-{2,2,2-trifluoro-1-(trifluoromethyl)ethylidene}propanamide | 0.015 mole, 4.67 g | FC(C(=O)N=C(C(F)(F)F)C(F)(F)F)(C(F)(F)F)F | C6F11NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Pentafluoroethyl-4,4-bis(trifluoromethyl)-6-(3-trifluoromethyl-phenyl)-4H-1,3,5-oxadiazine | FC(C(F)(F)F)(C=1OC(=NC(N1)(C(F)(F)F)C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)F | C14H4F14N2O
